### PR TITLE
[Merged by Bors] - feat: `congr(...)` congruence quotations and port `congrm` tactic

### PR DESCRIPTION
**Pull request by mcdoll**
Adds a term elaborator for `congr(...)` "congruence quotations". For example, if `hf : f = f'` and `hx : x = x'`, then we have `congr($hf $x) : f x = f' x'`. This supports the functions having implicit arguments, and it has support for subsingleton instance arguments. So for example, if `s t : Set X` are sets with `Fintype` instances and `h : s = t` then `congr(Fintype.card $h) : Fintype.card s = Fintype.card t` works.

Ports the `congrm` tactic as a convenient frontend for applying a congruence quotation to the goal. Holes are turned into congruence holes. For example, `congrm 1 + ?_` uses `congr(1 + $(?_))`. Placeholders (`_`) do not turn into congruence holes; that's not to say they have to be identical on the LHS and RHS, but `congrm` itself is responsible for finding a congruence lemma for such arguments.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/Congrm.lean [hunk 1]
```diff
@@ -0,0 +1,137 @@
...
+    -- Apply `congrm_loop` to all arguments with the corresponding pattern and concat the resulting
+    -- list.
+    return (← (patternArgs.zip goalArgs).mapM (λ (e,m) => congrmLoop e m)).join
+  else if pat.isFVar then
+    let fvarId := pat.fvarId!
+    trace[congrm] s!"FVar: {← fvarId.getUserName}"
+    let res ← observing? do
+      goal.refl
+    if res == none then
+      throwTacticEx `congrm goal m!"variable pattern has to "
```
Comment (PatrickMassot) [inline Mathlib/Tactic/Congrm.lean:122]: Is this error message truncated?

File: Mathlib/Tactic/Congrm.lean [hunk 2]
```diff
@@ -0,0 +1,137 @@
...
+-/
+
+import Mathlib.Tactic.Basic
+import Mathlib.Tactic.Congr!
+import Mathlib.Logic.Basic
+
+/-!
+# The `congrm` tactic
+
+to be written
```
Comment (semorrison) [inline Mathlib/Tactic/Congrm.lean:14]: Needs module doc.

File: Mathlib/Tactic/Congrm.lean [hunk 3]
```diff
@@ -0,0 +1,137 @@
...
+-/
+syntax (name := congrM) "congrm " term : tactic
+
+section util
+
+/-- Given a function, extract the explicit arguments. -/
+def _root_.Lean.Expr.getExplicitArgs (f : Expr) : MetaM (Array Expr) := do
+  let args := f.getAppArgs
+  let pinfo := (← Lean.Meta.getFunInfo f.getAppFn').paramInfo
+  return (pinfo.zip args).filterMap (λ arg => if arg.1.isExplicit then some arg.2 else none)
```
Comment (semorrison) [inline Mathlib/Tactic/Congrm.lean:57]: Please move to Mathlib/Lean/Expr/Basic.lean

File: Mathlib/Tactic/Congrm.lean [hunk 4]
```diff
@@ -0,0 +1,137 @@
...
+
+/-- try to close the goal using refl, return the `mvarId` if it fails-/
+def tryRefl (goal : MVarId) : MetaM (Option MVarId) := do
+  let res ← observing? do
+    goal.refl
+  if res == none then return some goal else return none
```
Comment (semorrison) [inline Mathlib/Tactic/Congrm.lean:63]: This is a bit weird. Usually we'd have an `Option.some` when a `try` succeeds, rather than the reverse? Does this really need its own function?

File: Mathlib/Tactic/Congrm.lean [hunk 5]
```diff
@@ -0,0 +1,137 @@
...
+
+/-- to be moved somewhere else-/
+def _root_.Lean.MVarId.applyWithFreshMVarLevels (goal : MVarId) (lem : Name) :
+    MetaM (List MVarId) := do
+  goal.apply (← mkConstWithFreshMVarLevels lem)
```
Comment (semorrison) [inline Mathlib/Tactic/Congrm.lean:68]: Not sure this really needs its own function; it's barely shorter than its definition!

File: Mathlib/Tactic/Congrm.lean [hunk 6]
```diff
@@ -0,0 +1,137 @@
...
+
+end util
+
+private partial def telescopingFn (lem : Name) (goal : MVarId) (x : Expr) : MetaM MVarId := do
+  let userName ← x.fvarId!.getUserName
+  let newGoals ← goal.applyWithFreshMVarLevels lem
+  if newGoals.length == 1 then
+    let newGoal := newGoals[0]!
```
Comment (semorrison) [inline Mathlib/Tactic/Congrm.lean:76]: You could do these three lines nicely with a `match ← goal.applyWithFreshMVarLevels with`.

File: Mathlib/Tactic/Congrm.lean [hunk 7]
```diff
@@ -0,0 +1,137 @@
...
+
+/-- to be moved somewhere else-/
+def _root_.Lean.MVarId.applyWithFreshMVarLevels (goal : MVarId) (lem : Name) :
+    MetaM (List MVarId) := do
+  goal.apply (← mkConstWithFreshMVarLevels lem)
+
+end util
+
+private partial def telescopingFn (lem : Name) (goal : MVarId) (x : Expr) : MetaM MVarId := do
+  let userName ← x.fvarId!.getUserName
```
Comment (semorrison) [inline Mathlib/Tactic/Congrm.lean:73]: If you're immediately calling `.fvarId!`, wouldn't it make more sense to have an `FVarId` argument?

File: Mathlib/Tactic/Congrm.lean [hunk 8]
```diff
@@ -0,0 +1,137 @@
...
+  if res == none then return some goal else return none
+
+/-- to be moved somewhere else-/
+def _root_.Lean.MVarId.applyWithFreshMVarLevels (goal : MVarId) (lem : Name) :
+    MetaM (List MVarId) := do
+  goal.apply (← mkConstWithFreshMVarLevels lem)
+
+end util
+
+private partial def telescopingFn (lem : Name) (goal : MVarId) (x : Expr) : MetaM MVarId := do
```
Comment (semorrison) [inline Mathlib/Tactic/Congrm.lean:72]: Unless the argument order matters for some other reason, I like the convention of `MVarId`s-come-last. It is often convenient for combining tactics, passing to `liftMetaTactic`, etc.

Comment (semorrison) [inline Mathlib/Tactic/Congrm.lean:72]: Why is this `partial`? Why does it have `telescoping` in the name? There's no recursive call.

File: Mathlib/Tactic/Congrm.lean [hunk 9]
```diff
@@ -0,0 +1,137 @@
...
+  if newGoals.length == 1 then
+    let newGoal := newGoals[0]!
+    return (← newGoal.intro userName).2
+  throwTacticEx `congrm goal m!"failed to apply {lem}"
+
+open private applyCongrThm? from Lean.Meta.Tactic.Congr in
+
+/-- Main loop for `congrm` -/
+partial def congrmLoop (pat : Expr) (goal : MVarId) : MetaM (List MVarId) := do
+  -- Helper function (stolen from somewhere) that creates the correct FVars in `λ` and `∀`
```
Comment (semorrison) [inline Mathlib/Tactic/Congrm.lean:84]: Maybe you could track down the "somewhere"? :-)

File: Mathlib/Tactic/Congrm.lean [hunk 10]
```diff
@@ -0,0 +1,137 @@
...
+/-!
+# The `congrm` tactic
+
+to be written
+ -/
+
+namespace Mathlib.Tactic
+open Lean Parser Tactic Elab Tactic Meta
+
+initialize registerTraceClass `congrm
```
Comment (semorrison) [inline Mathlib/Tactic/Congrm.lean:20]:
```suggestion
initialize registerTraceClass `Tactic.congrm
```
We're wildly inconsistent about this, but I *think* putting ```Tactic`` in the name is the more common approach.

File: Mathlib/Tactic/Congrm.lean [hunk 11]
```diff
@@ -0,0 +1,137 @@
...
+    trace[congrm] s!"Forall pattern: {← ppExpr pat}"
+    forallTelescope pat (binders goal ``pi_congr)
+  else if pat.isLambda then
+    trace[congrm] s!"Lambda pattern: {← ppExpr pat}"
+    lambdaTelescope pat (binders goal ``funext)
+  else if pat.isApp then
+    let patternArgs := (← pat.getExplicitArgs).toList
+    trace[congrm] s!"Apply pattern, fun: {← ppExpr pat.getAppFn}, args: {← patternArgs.mapM ppExpr}"
+    let some congrThm ← mkCongrSimp? pat.getAppFn' (subsingletonInstImplicitRhs := false) |
+      return []
```
Comment (semorrison) [inline Mathlib/Tactic/Congrm.lean:100]: Does this need an error message? If we haven't consumed the pattern yet the user probably should know about it!

File: Mathlib/Tactic/Congrm.lean [hunk 12]
```diff
@@ -0,0 +1,137 @@
...
+    if pat.getAppFn.isMVar then
+      -- If the function is a metavariable, we just return the goal
+      return [goal]
```
Comment (semorrison) [inline Mathlib/Tactic/Congrm.lean:103]: Could you explain the logic here? If we're "failing", we should say so in some way, not just do nothing.

File: test/congrm.lean [hunk 13]
```diff
@@ -0,0 +1,94 @@
...
+-- Testing for wrong variable in pattern
+example (a b c : ℕ) (h : b = c) : a = b ↔ a = c := by
+  congrm (b = _)
+  exact h
+
+example {a b : ℕ} (h : a = b) : (fun _ : ℕ => ∀ z, a + a = z) = (fun _ => ∀ z, b + a = z) := by
+  congrm λ x => ∀ w, (_ + a = w)
+  exact h
+
+-- Tests that should fail:
```
Comment (semorrison) [inline test/congrm.lean:81]: This should be turned on, and use #guard_msgs to check they fail in the right way.

File: Mathlib/Tactic/Congrm.lean [hunk 14]
```diff
@@ -0,0 +1,137 @@
...
+  else
+    trace[congrm] s!"We have an unhandled expression: {← ppExpr pat}"
+    throwTacticEx `congrm goal m!"Invalid pattern"
+
+/-- the core function for `congrm` -/
+partial def congrmCore (pat : Expr) (goal : MVarId) : MetaM (List MVarId) := do
+  -- First change `iff` to `=` and then run the loop:
+  let mvars ← congrmLoop pat (← goal.iffOfEq)
+  -- Try `refl` on all remaining goals
+  mvars.filterMapM tryRefl
```
Comment (kmill) [inline Mathlib/Tactic/Congrm.lean:133]: You're allowed to return assigned metavariables with `liftMetaTactic`, so you can do something like this, if we want to avoid needing `tryRefl`:
```lean
for mvar in mvars do
  try discard <| mvar.refl catch _ => pure ()
return mvars
```
Whenever you get the main goal, it prunes assigned metavariables for you anyway.

**Comment by kmill** [comment]
It's occurred to me that we should be able to implement `congrm` using `convert_to` and then benefit from all of the congruence machinery that's there. I'm going to go and investigate.

**Comment by kmill** [comment]
I have an experiment on the `mcdoll/congrm_kmill_experiment` branch [(diff)](https://github.com/leanprover-community/mathlib4/compare/master...mcdoll/congrm_kmill_experiment). It uses a `congr%` term elaborator to turn the pattern into a congruence lemma and then applies it using `refine`, which lets it unfold definitions too.

It uses `?m` for pattern holes rather than `_`, like in `gcongr`, and a consequence is that (1) we can differentiate between what should be solved by unification and what by future goals and (2) we can name goal tags and solve specific ones with `case`.

It's not perfect yet, since it doesn't completely handle things like `Fintype` instance arguments, but at the moment it's passing the tests from this PR.

**Comment by mcdoll** [comment]
Thanks Kyle! This looks very nice. Feel free to merge it into this PR. I am extremely busy at the moment (I am at ESI in Vienna), so I will probably not find the time to do anything on this soon.

**Comment by kmill** [comment]
@semorrison It turned out to be tricky to write a reliable congruence quotation elaborator, but it seems to work now!

I haven't had a chance to do an in-depth review of my own code yet -- I've been staring at it too long too recently -- but if you can lend fresh eyes I'd appreciate it.

**Comment by PatrickMassot** [comment]
A nice test would be to try to remove all porting notes that mention `congrm` was used in mathlib3.

**Comment by kmill** [comment]
@PatrickMassot Good idea. All the porting notes are handled but the one in `Mathlib.Geometry.Euclidean.Angle.Sphere`, where it wasn't clear that `congrm` was better (I did check that `congrm` worked though).

**Comment by PatrickMassot** [comment]
Great!

**Comment by hrmacbeth** [comment]
Have you thought of having `apply_fun` also use congruence quotations?  `apply_fun` works on hypotheses and goals, equalities and inequalities, but here I mean specifically for equality hypotheses.

**Comment by kmill** [comment]
@hrmacbeth Yeah, `apply_fun f at h` ought to be equivalent to `replace h := congr(f $h)`.

File: test/congrm.lean [hunk 15]
```diff
@@ -0,0 +1,130 @@
...
+    sorry
+  case h2 =>
+    guard_target = d = b
+    sorry
+  case h3 =>
+    guard_target = c + a.pred = c + d.pred
+    sorry
+
+example {a b : ℕ} (h : a = b) : (λ y : ℕ => ∀ z, a + a = z) = (λ x => ∀ z, b + a = z) := by
+  congrm λ x => ∀ w, ?_ + a = w
```
[the remark this answers is not in the document]
Comment (semorrison) [reply test/congrm.lean:25]: and elsewhere.

File: test/congrm.lean [hunk 16]
```diff
@@ -0,0 +1,130 @@
...
+  congrm f ?_
+  exact h
+
+def foo (n : Nat) : Nat := 1 + n
+
+-- Unfolding
+example (n m : Nat) (h : n = m) : foo (2 + n) = foo (2 + m) := by
+  congrm 1 + (2 + ?_)
+  exact h
+
```
Comment (semorrison) [inline test/congrm.lean:121]: Could we have a test for it failing to unfold something irreducible?

File: Mathlib/Tactic/Congrm.lean [hunk 17]
```diff
@@ -0,0 +1,78 @@
...
+  case h1 ⊢ a = b
+  case h2 ⊢ d = b
+  case h3 ⊢ c + a.pred = c + d.pred
+  -/
+  sorry
+  sorry
+  sorry
+
+example {a b : ℕ} (h : a = b) : (λ y : ℕ => ∀ z, a + a = z) = (λ x => ∀ z, b + a = z) := by
+  congrm λ x => ∀ w, ?_ + a = w
```
Comment (semorrison) [inline Mathlib/Tactic/Congrm.lean:46]:
```suggestion
  congrm fun x => ∀ w, ?_ + a = w
```

File: Mathlib/Tactic/Congrm.lean [hunk 18]
```diff
@@ -0,0 +1,78 @@
...
+  -- ⊢ a = b
+  exact h
+```
+
+The `congrm` command is a convenient frontend to `congr(...)` congruence quotations.
+If the goal is an equality, `congrm e` is equivalent to `refine congr(e')` where `e'` is
+from replacing each placeholder `?m` by `$(?m)`.
```
Comment (semorrison) [inline Mathlib/Tactic/Congrm.lean:53]: Word missing here? "is *built* from"?

File: Mathlib/Tactic/TermCongr.lean [hunk 19]
```diff
@@ -0,0 +1,695 @@
...
+congruence quotations are more general,
+since for example `f` could have implicit arguments, complicated dependent types,
+and subsingleton instance arguments such as `Decidable` or `Fintype`.
+
+The implementation strategy is the following:
+
+1. The pattern is elaborated twice, once with each hole replaced by the LHS
+   and again with each hole replaced by the RHS. We do not force the hole to
+   have any particular type while elaborating, but whenever we can figure out
+   a LHS or a RHS we unify.
```
Comment (semorrison) [inline Mathlib/Tactic/TermCongr.lean:24]: Could you clarify "but whenever we can figure out a LHS or a RHS we unify"? It isn't obvious to me yet what this means.

File: Mathlib/Tactic/TermCongr.lean [hunk 20]
```diff
@@ -0,0 +1,695 @@
...
+   We use `Mathlib.Tactic.TermCongr.cHole` with metadata for these replacements
+   to hold onto the hole itself.
+2. Once these are elaborated, we unify against the LHS and RHS of the target type.
```
Comment (semorrison) [inline Mathlib/Tactic/TermCongr.lean:27]:
```suggestion
2. Once the pattern has been elaborated twice, we unify against the LHS and RHS of the target type.
```
Just to avoid a slightly hard to dereference "these".

File: Mathlib/Tactic/TermCongr.lean (hunk 19 above)
Comment (kmill) [reply Mathlib/Tactic/TermCongr.lean]: That was a mysterious sentence, but I think I figured out what I meant.

File: Mathlib/Tactic/TermCongr.lean [hunk 21]
```diff
@@ -0,0 +1,695 @@
...
+/-- Eliminate all congruence holes from an expression by replacing them with their values. -/
+def removeCHoles (e : Expr) : Expr :=
+  e.replace fun e' => if let some (_, val, _) := cHole? e' then val else none
+
+/-- Elaborates a congruence hole and returns either the left-hand side or the right-hand side,
+annotated with information necessary to generate a congruence lemma. -/
+def elabCHole (h : Syntax) (forLhs : Bool) (expectedType? : Option Expr) : Term.TermElabM Expr := do
+  let pf ← Term.elabTerm h none
+  let pfTy ← inferType pf
+  unless ← isDefEq (← inferType pfTy) (.sort .zero) do
```
Comment (semorrison) [inline Mathlib/Tactic/TermCongr.lean:163]: Is this different from `(← inferType pfTy).isProp`?

File: Mathlib/Tactic/TermCongr.lean [hunk 22]
```diff
@@ -0,0 +1,695 @@
...
+      unless ks.any (fun (k, _) => k == `term) do
+        throwErrorAt s "Expecting term"
+      let h : Term := ⟨s.getCanonicalAntiquot.getAntiquotTerm⟩
+      expand h
+    else
+      pure none
+  return ⟨t'⟩
+
+/-- Given the pattern `t` in `congr(t)`, elaborate it for the given side
+by relpacing antiquotations with `cHole%` terms, and ensure the elaborated term
```
Comment (semorrison) [inline Mathlib/Tactic/TermCongr.lean:202]:
```suggestion
by replacing antiquotations with `cHole%` terms, and ensure the elaborated term
```

File: Mathlib/Tactic/TermCongr.lean [hunk 23]
```diff
@@ -0,0 +1,695 @@
...
+The only `Lean.Meta.CongrArgKind` kinds that appear in such a lemma
+are `.eq`, `.heq`, and `.subsingletonInst`.
+The resulting lemma proves either an `Eq` or a `HEq` depending on whether the types
+of the LHS and RHS are equal or not.
+
+This function is a wrapper around `Lean.Meta.mkHCongrWithArity`.
+It transforms the resulting congruence lemma by trying to automatically prove hypotheses
+using subsingleton lemmas, and if they are so provable they are recorded with `.subsingletonInst`.
+Note that this is slightly abusing this kind since (1) it might not be for a `Decidable` instance
+and (2) it might not even be for an instance. -/
```
Comment (semorrison) [inline Mathlib/Tactic/TermCongr.lean:222]: I couldn't follow this sentence.

File: Mathlib/Tactic/TermCongr.lean [hunk 24]
```diff
@@ -0,0 +1,695 @@
...
+def mkHCongrWithArity' (f : Expr) (numArgs : Nat) : MetaM CongrTheorem := do
```
Comment (semorrison) [inline Mathlib/Tactic/TermCongr.lean:223]: Is this something generally useful that maybe should be lifted out of this file for visibility?

File: Mathlib/Tactic/TermCongr.lean [hunk 25]
```diff
@@ -0,0 +1,695 @@
...
+Note: `mkAppM` uses `withNewMCtxDepth`, which prevents `Prop` specialization.
+Otherwise the `Subsingleton Prop` instance could apply for example. -/
+def CongrResult.mkDefault (lhs rhs : Expr) : MetaM CongrResult := do
+  if ← isDefEq lhs rhs then
+    return {lhs, rhs, pf? := none}
+  else if let some pf ← (observing? <| mkAppM ``Subsingleton.elim #[lhs, rhs]) then
+    return CongrResult.mk' lhs rhs pf
+  else if let some pf ← (observing? <| mkAppM ``proof_irrel_heq #[lhs, rhs]) then
+    return CongrResult.mk' lhs rhs pf
+  throwError "Could not generated congruence between{indentD lhs}\nand{indentD rhs}"
```
Comment (semorrison) [inline Mathlib/Tactic/TermCongr.lean:465]:
```suggestion
  throwError "Could not generate congruence between{indentD lhs}\nand{indentD rhs}"
```

File: Mathlib/Tactic/TermCongr.lean [hunk 26]
```diff
@@ -0,0 +1,695 @@
...
+    return {res with pf? := none}
+
+/-- Tries to make a congruence between `lhs` and `rhs` automatically.
+1. If they are defeq, returns a trivial congruence.
+2. Tries using `Subsingleton.elim`.
+3. Tries `proof_irrel_heq` as another effort to avoid doing congruence on proofs.
+3. Otherwise throws an error.
+
+Note: `mkAppM` uses `withNewMCtxDepth`, which prevents `Prop` specialization.
+Otherwise the `Subsingleton Prop` instance could apply for example. -/
```
Comment (semorrison) [inline Mathlib/Tactic/TermCongr.lean:457]: I'm confused by this note.

File: Mathlib/Tactic/TermCongr.lean [hunk 27]
```diff
@@ -0,0 +1,695 @@
...
+Only process ones that are at least as new as `mvarCounterSaved`
+since nothing prevents congruence holes from leaking into the local context. -/
+def mkCongrOfCHole? (mvarCounterSaved : Nat) (lhs rhs : Expr) : MetaM (Option CongrResult) := do
+  match cHole? lhs mvarCounterSaved, cHole? rhs mvarCounterSaved with
+  | some (isLhs1, val1, pf1), some (isLhs2, val2, pf2) =>
+    trace[Elab.congr] "mkCongrOfCHole, both holes"
+    unless isLhs1 == true do
+      throwCongrEx lhs rhs "A RHS congruence hole leaked into the LHS"
+    unless isLhs2 == false do
+      throwCongrEx lhs rhs "A LHS congruence hole leaked into the RHS"
```
Comment (semorrison) [inline Mathlib/Tactic/TermCongr.lean:490]: Do these actually happen? I'm unclear if these are meant to be considered unreachable or just unfortunate. :-)

File: Mathlib/Tactic/TermCongr.lean [hunk 28]
```diff
@@ -0,0 +1,695 @@
...
+        throwError "Left-hand side of congruence hole is{indentD lhsVal}\n{""
+          }but is expected to be{indentD val1}"
+      unless ← isDefEq val2 rhsVal do
+        throwError "Right-hand side of congruence hole is{indentD rhsVal}\n{""
+          }but is expected to be{indentD val2}"
+    return some <| CongrResult.mk' val1 val2 pf1
+  | some .., none =>
+    throwCongrEx lhs rhs "Right-hand side lost its congruence hole annotation."
+  | none, some .. =>
+    throwCongrEx lhs rhs "Left-hand side lost its congruence hole annotation."
```
Comment (semorrison) [inline Mathlib/Tactic/TermCongr.lean:505]: Similarly here.

File: Mathlib/Tactic/TermCongr.lean [hunk 29]
```diff
@@ -0,0 +1,695 @@
...
+  | none, none => return none
+
+/-- Walks along both `lhs` and `rhs` simultaneously to create a congruence lemma between them.
+
+Where they are desyncronized, we fall back to the base case (using `CongrResult.mkDefault'`)
```
Comment (semorrison) [inline Mathlib/Tactic/TermCongr.lean:510]:
```suggestion
Where they are desynchronized, we fall back to the base case (using `CongrResult.mkDefault'`)
```

File: Mathlib/Tactic/TermCongr.lean [hunk 30]
```diff
@@ -0,0 +1,695 @@
...
+  -- so instantiate them to be safe. Placeholders and implicit arguments might
+  -- end up with congruence holes, so they indeed might need a nontrivial congruence.
+  let lhs ← instantiateMVars lhs
+  let rhs ← instantiateMVars rhs
+  if let some res ← mkCongrOfCHole? mvarCounterSaved lhs rhs then
+    trace[Elab.congr] "hole processing succeeded"
+    return res
+  if (hasCHole mvarCounterSaved lhs).isNone && (hasCHole mvarCounterSaved rhs).isNone then
+    -- It's safe to fastforward if the lhs and rhs are defeq and have no congruence holes.
+    -- This is more conservative than necessary since congruence holes might be inside proofs.
```
Comment (semorrison) [inline Mathlib/Tactic/TermCongr.lean:528]: Just making sure I understand here, the "since" means that congruence holes inside proofs wouldn't matter, and not fastforwarding in their presence is the "more conservative"?

File: Mathlib/Tactic/TermCongr.lean [hunk 31]
```diff
@@ -0,0 +1,695 @@
...
+        nontriv := nontriv || !res.isRfl
+        args := args |>.push res.lhs |>.push res.rhs |>.push (← res.eq)
+        lhsArgs := lhsArgs.push res.lhs
+        rhsArgs := rhsArgs.push res.rhs
+      | .heq =>
+        let res ← mkCongrOf (depth + 1) mvarCounterSaved lhs' rhs'
+        nontriv := nontriv || !res.isRfl
+        args := args |>.push res.lhs |>.push res.rhs |>.push (← res.heq)
+        lhsArgs := lhsArgs.push res.lhs
+        rhsArgs := rhsArgs.push res.rhs
```
Comment (semorrison) [inline Mathlib/Tactic/TermCongr.lean:578]: I guess you could remove the duplication here by writing a single function `res.or_or_heq kind` or something. Probably doesn't matter, but it would have saved my taking a moment to work out if anything was different.

**Comment by semorrison** [comment]
This is really nice!

File: Mathlib/Tactic/TermCongr.lean (hunk 21 above)
Comment (kmill) [reply Mathlib/Tactic/TermCongr.lean:163]: Yeah, it has the side effect of making `pfTy` a proposition if its type is just a metavariable. I'm adding "Ensure that `pfTy` is a proposition"

File: Mathlib/Tactic/TermCongr.lean (hunk 27 above)
Comment (kmill) [reply Mathlib/Tactic/TermCongr.lean:490]: If it happens, it's really unfortunate, but I wouldn't expect it in normal operation. The expected type could be an equality with a metavariable shared between the LHS and RHS, letting a hole leak from the LHS to the RHS.

I don't really know how else this can occur in practice, but I figure one day someone on Zulip will let us know :wink:

File: Mathlib/Tactic/TermCongr.lean (hunk 28 above)
Comment (kmill) [reply Mathlib/Tactic/TermCongr.lean:505]: This is also not impossible, sadly. We always have the problem that the congruence hole could be given to an elaborator that reduces its argument in some way, stripping the annotation. These particular cases come up when that elaborator does it conditionally (what if `h : 1 = x` and `foo% 1` turns `1` into `Nat.succ Nat.zero` but leaves `foo% x` alone since it's not a number?).

File: Mathlib/Tactic/TermCongr.lean (hunk 30 above)
Comment (kmill) [reply Mathlib/Tactic/TermCongr.lean:528]: Correct. I changed it to "since congruence holes might *only* be inside proofs" to try to make the meaning clearer

File: Mathlib/Tactic/TermCongr.lean (hunk 31 above)
Comment (kmill) [reply Mathlib/Tactic/TermCongr.lean:578]: Yeah, I'd considered trying to deduplicate, but what stopped me before is all these `mut` variables

File: Mathlib/Tactic/TermCongr.lean (hunk 23 above)
Comment (kmill) [reply Mathlib/Tactic/TermCongr.lean]: Added clarification. "Kind" refers to a `CongrKind`, and this function uses `subsingletonInst` for arguments that are subsingletons for reasons other than being `Decidable` instances.

File: Mathlib/Tactic/TermCongr.lean (hunk 24 above)
Comment (kmill) [reply Mathlib/Tactic/TermCongr.lean:226]: Lifting it out would take a bit of work to do right (there are also some useful functions in `Mathlib.Tactic.Congr!` that ought to be lifted out). Is the TODO I left ok for now?

File: Mathlib/Tactic/TermCongr.lean (hunk 26 above)
Comment (kmill) [reply Mathlib/Tactic/TermCongr.lean]: This was a problem in `congr!` as well. I added some clarification.

The issue is that if you have `Sort ?u` then if there weren't `withNewMCtxDepth` then instance search is perfectly happy to unify this with `Prop` and say "yes, these are subsingletons". Without it, this would succeed:
```
example (T : Sort _) (x y : T) : x = y := congr(_)
```

File: Mathlib/Tactic/TermCongr.lean (hunk 31 above)
Comment (semorrison) [reply Mathlib/Tactic/TermCongr.lean:582]: Ah, indeed. Okay.

**Comment by semorrison** [comment]
bors merge

**Comment by semorrison** [comment]
bors merge

**Comment by semorrison** [comment]
@kmill, after merging master, the `docBlame` linter has been turned on, so you are missing some doc strings.

bors d+
